US03957761
In the manner given in Example 7, 1,3-dioxo-2-isoindolineacetic acid, [[N-[2-(o-chlorobenzoyl)-4-fluorophenyl]-1,3-dioxo-2-isoindolineacetamido]methylene]hydrazide is heated to 100°-110°C with trifluoroacetic acid to give 2'-chloro-5-fluoro-2-[3-(phthalimidomethyl)-4H-1,2,4-triazol-4-yl]benzophenone.

reactant | 1,3-dioxo-2-isoindolineacetic acid, [[N-[2-(o-chlorobenzoyl)-4-fluorophenyl]-1,3-dioxo-2-isoindolineacetamido]methylene]hydrazide | ClC1=C(C(=O)C2=C(C=CC(=C2)F)N(C(CN2C(C3=CC=CC=C3C2=O)=O)=O)C=NNC(CN2C(C3=CC=CC=C3C2=O)=O)=O)C=CC=C1 | C34H21ClFN5O7
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | 2'-chloro-5-fluoro-2-[3-(phthalimidomethyl)-4H-1,2,4-triazol-4-yl]benzophenone | ClC1=C(C=CC=C1)C(C1=C(C=CC(=C1)F)N1C(=NN=C1)CN1C(C=2C(C1=O)=CC=CC2)=O)=O | C24H14ClFN4O3
